US08476432B2
Tributyl[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-ylmethyl]phosphonium bromide (13.9 g), 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (5.0 g), dimethylformamide (100.0 mL), and potassium carbonate (8.5 g) were added to a reactor. The reaction mixture was stirred at 70˜75° C. for 6 hours. The reaction was monitored with thin layer chromatography (ethyl acetate/n-hexane=1:3). The reaction mixture was cooled to 20˜30° C. Water (60.0 mL) was added to the reaction mixture under stirring. The separated organic layer was washed with water (60.0 mL) and 2% sodium chloride solution (50.0 mL). The organic layer was concentrated under reduced pressure to remove the solvent and then isopropanol (50.0 mL) was added thereto. The reaction mixture was stirred at 0˜5° C. for over 1 hour and then filtered under reduced pressure. The resulting white solid was dried under vacuum to obtain E-(6-{2-[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide (8.8 g, yield 76%).

reactant | Tributyl[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-ylmethyl]phosphonium bromide | 13.9 g | [Br-].C(CCC)[P+](CC=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F)(CCCC)CCCC
reactant | 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 5.0 g | C(=O)[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H19NO5
reactant | dimethylformamide | 100.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 60.0 mL | O | H2O
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | E-(6-{2-[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide | 8.8 g, yield 76% | CN(S(=O)(=O)C)C1=NC(=C(C(=N1)C1=CC=C(C=C1)F)/C=C/[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC)C(C)C | C27H37FN4O6S
